US08058435B2
To a solution of ecteinascidin 770 (22 mg, 0.0285 mmol) in acetonitrile and water (3:2, v/v, 4 ml) was added silver nitrate (100 mg, 20 equiv). The suspension was stirred at 23° C. for 19 hours at which time a mixture of saturated aqueous sodium chloride solution (1 ml) and saturated aqueous sodium hydrogen carbonate solution (1 ml) was added. The mixture was stirred vigorously at 23° C. for 10 min before it was partitioned between saturated aqueous sodium chloride solution and saturated aqueous sodium hydrogen carbonate solution (20 ml, v/v, 1:1) and extracted with ethyl acetate (3×100 ml). The combined organic layer was dried over sodium sulfate, concentrated, and the residue was purified by flash column chromatography (60% EtOAc in heptane) to afford ecteinascidin 743 (20 mg, 92%) as a pale yellow film. [α]D2 4.5−53.8° (c=0.65, CHCl3). IR (neat film) 3433, 2935, 1762, 1741, 1586, 1511, 1502, 1460, 1452, 1370, 1243, 1087, 1028, 1002, 957 cm−1; 1H NMR (300 MHz, CDCl3) 6.59 (s, 1H), 65 (s, 1H), 6.44 (s, 1H), 6.01 (s, 1H), 5.93 (s, 1H), 5.72 (bs, 1H), 5.12 (d, J=11.2 Hz, 1H), 4.80 (s, 1H), 4.47 (d, J=3.0 Hz, 1H), 4.46 (s, 1H), 4.15 (d, J=4.0 Hz, 1H), 4.03 (dd, J=11.2 2.1 Hz, 1H), 3.78 (s, 3H), 3.60 (s, 3H), 3.56 (d, J=4.9 Hz, 1H), 3.17-3.22 (m, 1H), 3.12 (ddd, J=14.1, 10.1, 4.2 Hz, 1H), 2.75-2.93 (m, 3H), 2.59 (ddd, J=15.6, 9.5, 5.3 Hz, 1H), 2.46 (dt, J=15.8, 3.5 Hz, 1H), 2.34 (d, J=17.5 Hz, 1H), 2.31 (s, 3H), 2.25 (s, 3H), 2.16 (s, 3H), 2.08-2.15 (m, 1H), 2.02 (s, 3H); 13C NMR (125.7 MHz, CDCl3) δ 172.55, 168.34, 147.69, 145.13, 144.44, 144.28, 142.97, 141.29, 140.51, 131.55, 129.19, 129.12, 126.06, 121.87, 120.96, 118.00, 115.96, 114.06, 112.53, 109.84, 101.66, 82.11, 64.68, 61.37, 60.35, 57.80, 57.74, 55.98, 55.15, 54.94, 42.22, 42.16, 41.44, 39.71, 28.85, 24.06, 20.43, 15.80, 9.67; HRMS (MALDI+) m/z: Calc. for C39H42N3O10S (M−OH)+ 744.2605 and C39H44N3O11S (M+H)+ 762.2719, found 744.2590, 762.2696.

reactant | ecteinascidin 770 | 0.0285 mmol, 22 mg | CC1=CC2=C(C(=C1OC)O)[C@@H]3[C@@H]4[C@H]5C6=C(C7=C(C(=C6OC(=O)C)C)OCO7)[C@@H](N4[C@H]([C@H](C2)N3C)C#N)COC(=O)[C@@]8(CS5)C9=CC(=C(C=C9CCN8)O)OC | C40H42N4O10S
reactant | sodium chloride | 1 ml | [Cl-].[Na+]
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
catalyst | silver nitrate | 100 mg, 20 equiv | [N+](=O)([O-])[O-].[Ag+]
product | ecteinascidin 743 | 20 mg, 92% | CC1=CC2=C(C(=C1OC)O)[C@@H]3[C@@H]4[C@@H]5C6=C(C7=C(C(=C6OC(=O)C)C)OCO7)[C@H](N4[C@H]([C@H](C2)N3C)O)COC(=O)[C@@]8(CS5)C9=CC(=C(C=C9CCN8)O)OC | C39H43N3O11S
